### ISSUE TITLE
unnecessary generalization of unused section variables

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1129]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Steps to Reproduce

```lean
inductive Vector (α : Type): Nat → Type where
| nil : Vector α 0
| cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  variable {n: Nat} {α β: Type} (f: α → β) (xs ys: Vector α n)

  def map: Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) (xs.map f) 

  theorem map_id: xs.map (λx => x) = xs := by induction xs <;> simp_all!
end Vector
```

**Expected behavior:** everything works as in `Lean3`:

```lean
inductive Vector (α : Type): ℕ → Type
| nil : Vector 0
| cons {n}(head : α) (tail : Vector n) : Vector (n+1)

namespace Vector
  variables {n: ℕ} {α β: Type} (f: α → β) (xs ys: Vector α n) 

  def map: Π {n}, Vector α n → Vector β n
  | _ nil         := nil
  | _ (cons x xs) := cons (f x) (map xs) 

  theorem map_id: xs.map (λx, x) = xs := by induction xs; simp [*, map] at *
end Vector
```

**Actual behavior:** get error at `map`:

```
application type mismatch
  map xs
argument
  xs
has type
  Vector α n✝ : Type
but is expected to have type
  Vector α n : Type
```

get error at `map_id`  (when `map` is fixed):

```
unsolved goals
case cons
n : Nat
α β : Type
f : α → β
xs : Vector α n
n✝ : Nat
head✝ : α
tail✝ : Vector α n✝
ys : Vector α (n✝ + 1)
: Vector α n✝ → map (fun x => x) tail✝ = tail✝
⊢ map (fun x => x) tail✝ = tail✝
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-04-28`

**Comment by fpfu** [comment]
I initially wanted to report the second error, that occurs at `map_id` in this full mwe:

```lean
inductive Vector (α : Type): Nat → Type where
| nil : Vector α 0
| cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector

  def map (f: α → β): Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) (xs.map f) 

  variable (xs ys: Vector α n)
  theorem map_id: xs.map (λx => x) = xs := by induction xs <;> simp_all!
end Vector
```

but after moving of section variables above `map` get the first error, and wrongly concluded that they are connected

**Comment by Kha** [comment]
Ah right, `map` is accepted as is if `n` is an auto-implicit variable, but not if it is a section variable. And `map_id` fails regardless of whether `ys` is a section variable.
```
namespace Vector
  def map (f: α → β) : Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) (xs.map f)

  theorem map_id (xs ys : Vector α n) : xs.map (λx => x) = xs := by induction xs <;> simp_all!
end Vector
```

**Comment by fpfu** [comment]
such example doesn't work in `Lean3` too:

```lean
inductive Vector (α : Type): ℕ → Type
| nil : Vector 0
| cons {n}(head : α) (tail : Vector n) : Vector (n+1)

namespace Vector
  variables {n: ℕ} {α β: Type} (f: α → β)

  def map: Π {n}, Vector α n → Vector β n
  | _ nil         := nil
  | _ (cons x xs) := cons (f x) (map xs) 

  theorem map_id (xs ys: Vector α n): xs.map (λx, x) = xs := by induction xs; simp [*, map] at *
end Vector
```
I thought that `Lean3` performs some checks about section variables and whether they occur in definition's signature

**Comment by leodemoura** [comment]
I will try to summarize the discussion. For reference, here is how we would write this example in Lean 4, and everything works as expected.

```lean

inductive Vector (α : Type): Nat → Type where
  | nil : Vector α 0
  | cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  def map (f : α → β) : Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) (xs.map f) 

  theorem map_id (xs : Vector α n) : xs.map (λx => x) = xs := by induction xs <;> simp_all!
end Vector
```

Now, let's assume that `f` is declared as a section variable. Then, the definition looks a bit weird because during `map`s elaboration Lean does not know that it takes `f` as a parameter. That being said, everything still works.

```lean
inductive Vector (α : Type): Nat → Type where
  | nil : Vector α 0
  | cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  variable (f : α → β)

  def map : Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) xs.map -- A bit weird, but it works. during elaboration Lean does not know that `map` also takes `f` as a parameter.

  theorem map_id (xs : Vector α n) : xs.map (λx => x) = xs := by induction xs <;> simp_all!
end Vector
```

Now, let's assume `n` is a section variable too. Then, `map`s elaboration fails, and @Kha has already explained the reason, and why this is expected: `n` is a fixed parameter in `map`.

```lean
inductive Vector (α : Type): Nat → Type where
  | nil : Vector α 0
  | cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  variable (n : Nat) (f : α → β) 

  def map : Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) xs.map -- Fails here
```

Now, assume that `(xs ys :  Vector α n)` are section variables, then `n` must also be one, and we have the previous failure again.

```lean
inductive Vector (α : Type): Nat → Type where
  | nil : Vector α 0
  | cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  variable (f : α → β) (xs ys : Vector α n) 

  def map : Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) xs.map -- Fails here
```

Now, assume `ys` is an unused variable at `map_id`. Then, `induction` will generalize it because `n` is an index at `xs : Vector α n`, and `ys` depends on `n`. Then, the `simp_all!` does not solve the `cons` branch, but we can still prove the theorem.

```lean
inductive Vector (α : Type): Nat → Type where
| nil : Vector α 0
| cons (head : α) (tail : Vector α n) : Vector α (n+1)

namespace Vector
  def map (f: α → β) : Vector α n → Vector β n
  | .nil       => .nil
  | .cons x xs => .cons (f x) (xs.map f)

  theorem map_id (xs ys : Vector α n) : xs.map (λx => x) = xs := by 
    induction xs <;> simp_all! -- ys was generalized
    next tail ih => exact ih tail

end Vector
```

As far as I can tell, everything is working as expected here. Perhaps, we can add an option to `induction` to disable generalization. Rigth now, the `generalizing` modifier only allows us to add more variables to be generalized, but we cannot remove them.

**Comment by leodemoura** [comment]
@fpfu 

> such example doesn't work in Lean3 too:

Yes, Lean 3 `induction` also performs some automatic generalizations. Lean 4 performs even more, and this modification was requested by different users. We don't have a lot of data at this point, but so far it looks like a positive change. Note that the generalization did not make your theorem unprovable, it only made `simp_all!` less effective. In the future, we will have more powerful tactics, and even with the generalization, the proof will be less verbose.

**Comment by fpfu** [comment]
The key point of this issue is that `Lean3` unlike `Lean4` doesn't perform automatic generalization of `ys` in this example:

```lean
inductive Vector (α : Type): ℕ → Type
| nil : Vector 0
| cons {n}(head : α) (tail : Vector n) : Vector (n+1)

namespace Vector
  def map {α β: Type}(f: α → β): Π {n}, Vector α n → Vector β n
  | _ nil         := nil
  | _ (cons x xs) := cons (f x) (map xs) 

  variables {α: Type} {n: ℕ} (xs ys: Vector α n)
  theorem map_id: xs.map (λx, x) = xs := by induction xs; simp [*, map] at *
end Vector
```

I thought this affects mathlib porting process, so I reported about it. Sorry for confusion.
